US07622463B2
Methyl 3-(N-cyclopentyl-N-(2-chloro-5-nitropyrimidin-4-yl)amino)propionate (2.0 g, 6.1 mmol) in glacial acetic acid at 70° C. was treated in portions with iron powder (0.7 g, 12.4 mmol) over 6 hours. The mixture was concentrated and triturated with dichloromethane and filtered. The filtrate was absorbed onto silica gel and soxhlet extracted over 7 hours with ethyl acetate. The extract was concentrated to a black oil and triturated with methanol to give pale brown crystals of 2-chloro-9-cyclopentyl-8,9-dihydro-5H-pyrimido[4.5-b][1,4]diazepin-6(7H)-one (499 mg, 31%). NMR 1.46-1.58 (4H, m), 1.60-1.72 (2H, m), 1.75-1.85 (2H, m), 2.64 H, d), 3.55 (2H, d), 4.92-5.03 (1H, m), 7.83 (1H, s), 9.72 (1H, s).

reactant | Methyl 3-(N-cyclopentyl-N-(2-chloro-5-nitropyrimidin-4-yl)amino)propionate | 6.1 mmol, 2.0 g | C1(CCCC1)N(C1=NC(=NC=C1[N+](=O)[O-])Cl)CCC(=O)OC | C13H17ClN4O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | 12.4 mmol, 0.7 g | [Fe] | Fe
product | 2-chloro-9-cyclopentyl-8,9-dihydro-5H-pyrimido[4.5-b][1,4]diazepin-6(7H)-one | 499 mg, 31% | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCCC2)N1 | C12H15ClN4O
